US08124606B2
Compound 107A: 3-chloro-4-fluoro-N-ethylbenzamide:
Using ethanamine hydrochloride and 3-chloro-4-fluorobenzoic acid in the general procedure for coupling of amines to carboxylic acids, the title compound was obtained (77% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12 (t, J=7.20 Hz, 3H) 3.28 (qd, J=7.16, 5.56 Hz, 2H) 7.53 (t, J=8.84 Hz, 1H) 7.87 (ddd, J=8.72, 4.80, 2.15 Hz, 1H) 8.06 (dd, J=7.33, 2.27 Hz, 1H) 8.61 (t, J=4.67 Hz, 1H). ESI-MS: m/z 202.0 (M+H)+. mp=101.7-101.8° C.

reactant | ethanamine hydrochloride | Cl.C(C)N
reactant | 3-chloro-4-fluorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
product | 3-chloro-4-fluoro-N-ethylbenzamide | 77% yield | ClC=1C=C(C(=O)NCC)C=CC1F | C9H9ClFNO
